US07459465B2
A solution (400 mL) of diisopropylamine (26.9 g) in tetrahydrofuran was cooled to −5° C. and 1.57 M n-butyllithium hexane solution (154 ml) was added dropwise to the solution. After stirring at 0° C. for 30 min, the mixture was cooled to −78° C. and a solution (50 mL) of N,N-diethyl-2,3-diethylbenzamide (45.1 g) in tetrahydrofuran was added dropwise. After stirring at −78° C. for 1 hr, a solution (50 mL) of 1-benzyl-3-cyanopyrrolidine (37.18 g) in tetrahydrofuran was added dropwise. After Completion of the dropwise addition, the reaction mixture was heated to room temperature and the mixture was stirred overnight at room temperature. The mixture was further stirred under reflux for 1 hr and the reaction mixture was concentrated to about half. Water and methylene chloride were added and the organic layer was partitioned washed with water, dried over magnesium sulfate and concentrated. The obtained residue was purified by column chromatography (ethyl acetate) to give (±)-3-(1-benzylpyrrolidin-3-yl)-5-methyl-2H-isoquinolin-1-one (66.38 g).

reactant | diisopropylamine | 400 mL, 26.9 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 1.57 M, 154 ml | CCCCCC.C(CCC)[Li]
reactant | N,N-diethyl-2,3-diethylbenzamide | 50 mL, 45.1 g | C(C)N(C(C1=C(C(=CC=C1)CC)CC)=O)CC | C15H23NO
reactant | 1-benzyl-3-cyanopyrrolidine | 50 mL, 37.18 g | C(C1=CC=CC=C1)N1CC(CC1)C#N | C12H14N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (±)-3-(1-benzylpyrrolidin-3-yl)-5-methyl-2H-isoquinolin-1-one | 66.38 g | C(C1=CC=CC=C1)N1CC(CC1)C=1NC(C2=CC=CC(=C2C1)C)=O | C21H22N2O
